US09120785B2
To a flask were added cis-cyclohexane-1,4-dicarboxylic acid (20 g, 116 mmol), n-butyl formate (581 ml, 5066 mmol), Dowex 50W×2 resin (87 grams), and octane (484 ml). The reaction mixture was heated to 110° C. overnight and then cooled and filtered. The resin was washed with 300 mL 1:1 hexane:EtOAc. The filtrate was concentrated and then taken up in toluene and re-concentrated. The resulting residue was dissolved in dichloromethane (119 ml) and then thionyl chloride (11.51 ml, 158 mmol) was added. The reaction mixture was heated to 38° C. overnight and then concentrated. The residue was taken up in DCM and re-concentrated (3×) to remove residual HCl. The resulting residue was dissolved in 1,4-dioxane (413 ml) and degassed with Ar for 30 minutes. Palladium (II) acetate (0.696 g, 3.10 mmol) was added and the mixture was degassed for an additional 30 minutes. Dimethyl zinc (2 M in toluene, 31.0 ml, 62.0 mmol) was added. The system was placed under argon through 3 cycles of evacuation and argon flushing then reacted at 38° C. overnight. The reaction mixture was cooled and diluted with water. The resulting mixture was filtered through a CELITE plug and then the solid was washed with EtOAc. The filtrate was concentrated and purified by column chromatography on silica gel (0-30% ethyl acetate/hexanes) to afford butyl cis-4-acetylcyclohexanecarboxylate. 1H NMR (500 MHz, DMSO-d6) δ 4.07 (t, J=6.6 Hz, 2H), 2.54-2.48 (m, 1H), 2.44-2.38 (m, 1H), 2.13 (s, 3H), 2.01-1.93 (m, 2H), 1.81-1.57 (m, 9H), 1.41-1.32 (m, 2H), 0.92 (t, J=7.5 Hz, 3H).

reactant | cis-cyclohexane-1,4-dicarboxylic acid | 116 mmol, 20 g | [C@H]1(CC[C@@H](CC1)C(=O)O)C(=O)O | C8H12O4
reactant | n-butyl formate | 5066 mmol, 581 ml | C(=O)OCCCC | C5H10O2
reactant | octane | 484 ml | CCCCCCCC | C8H18
reactant | thionyl chloride | 158 mmol, 11.51 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Dimethyl zinc | 62.0 mmol, 2 M, 31.0 ml | C[Zn]C
solvent | water | O | H2O
catalyst | Palladium (II) acetate | 3.10 mmol, 0.696 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | butyl cis-4-acetylcyclohexanecarboxylate | C(C)(=O)[C@H]1CC[C@H](CC1)C(=O)OCCCC | C13H22O3
